US06809199B2
Benzyl 2-methylpiperazine-1-carboxylate (34 mg, 0.144 mmol) and diisopropylethylamine (19 mg, 0.144 mmol) were added to a mixture of 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazoline-7-sulfonyl chloride (60 mg, 0.096 mmol) (COMPOUND CCC8) in 1 mL THF. The mixture was heated to 80° C. and stirred at this temperature for ca. 1 h. The reaction mixture was cooled to rt and concentrated. The residue was purified by preparative thin-layer chromatography, eluting with 50:50 hexanes-acetone to yield benzyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]sulfonyl}-2-methylpiperazine-1-carboxylate. Mass spectrum (ESI) 819.1 (M+1).

reactant | Benzyl 2-methylpiperazine-1-carboxylate | 0.144 mmol, 34 mg | CC1N(CCNC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
reactant | diisopropylethylamine | 0.144 mmol, 19 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazoline-7-sulfonyl chloride | 0.096 mmol, 60 mg | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)S(=O)(=O)Cl)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C28H20Cl4N2O4S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | benzyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]sulfonyl}-2-methylpiperazine-1-carboxylate | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)S(=O)(=O)N1CC(N(CC1)C(=O)OCC1=CC=CC=C1)C)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C41H37Cl3N4O6S
